US20010049371A1
3-(3-Cyclopentyloxy-4-methoxyphenyl)-N-hydroxy-3-phthalimidopropionamide was prepared by the procedure of Example 1 from 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phthalimidopropanoic acid (1.50 g, 3.67 mmol), N,N′-carbonyldiimidazole (653 mg, 4.03 mmol) and hydroxylamine hydrochloride (308 mg, 4.43 mmol) in tetrahydrofuran (5 mL) to afford 3-(3-cyclopentyloxy-4-methoxyphenyl)-N-hydroxy-3-phthalimidopropionamide as a white solid (1.45 g, 93% yield): mp, 169.0-171.0° C.; 1H NMR ()MSO-d6) δ1.54-1.85 (m, 8H, C5H8), 3.09 (d, J=7.9 Hz, 2H, CH2), 3.69 (s, 3H, CH3), 4.70-4.72 (m, 1H, CH), 5.67 (t, J=7.9 Hz, 1H, NCH), 6.87 (br s, 2H, Ar), 7.01 (br s, 1H, Ar), 7.79-7.87 (m, 4H, Ar), 8.78 (br s, 1H, OH), 10.58 (1H, NH); 13C NMR (DMSO-d6) δ23.51, 32.17, 34.23, 50.19, 55.53, 79.57, 112.08, 114.16, 119.69, 123.11, 131.16, 131.20, 134.59, 146.73, 149.17, 166.01, 167.63; Anal Calcd for C23H24N2O6: C, 65.08; H, 5.70; N, 6.60. Found: C, 64.73; H, 5.60; N, 6.53.

reactant | 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phthalimidopropanoic acid | 3.67 mmol, 1.50 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C23H23NO6
reactant | hydroxylamine hydrochloride | 4.43 mmol, 308 mg | Cl.NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-N-hydroxy-3-phthalimidopropionamide | 1.45 g, 93% yield | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=CC=CC2)=O | C23H24N2O6
